US08703978B2
4-Iodo-N,N-dibutylaniline
Iodine (7.88 g, 31 mmol) was added portionwise to a mixture of N,N-dibutylaniline (7 g, 34 mmol) and NaHCO3 (2.87 g, 34 mmol) in water (25 mL) with stirring at 10-15° C. After 1 h the mixture was poured into Et2O (200 mL), washed with water (100 mL), Na2S2O3 (2×100 mL), water (2×100 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was chromatographed on silica using hexane as eluent. The first fraction was collected and the solvent removed under reduced pressure to give the title compound (7.26 g, 71%) as a pale brown oil.

reactant | Iodine | 31 mmol, 7.88 g | II | I2
reactant | N,N-dibutylaniline | 34 mmol, 7 g | C(CCC)N(C1=CC=CC=C1)CCCC | C14H23N
reactant | NaHCO3 | 34 mmol, 2.87 g | C(=O)(O)[O-].[Na+]
reactant | Et2O | 200 mL | CCOCC | C4H10O
solvent | water | 25 mL | O | H2O
product | 4-Iodo-N,N-dibutylaniline | 7.26 g, 71% | IC1=CC=C(N(CCCC)CCCC)C=C1 | C14H22IN
